US07666879B2
A. [2-Fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid tert-butyl ester
Couple 4-bromo-2-fluoro-phenylacetic acid, tert-butyl ester (3.65 g, 18.68 mmol) with 7-pyridin-4-yl-imidazo[1,2-a]pyridine (5.40 g, 18.68 mmol) as described in Preparation 153. MS(ES), m/z 404 (M+1).

reactant | 4-bromo-2-fluoro-phenylacetic acid, tert-butyl ester | 18.68 mmol, 3.65 g | BrC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)F | C12H14BrFO2
reactant | 7-pyridin-4-yl-imidazo[1,2-a]pyridine | 18.68 mmol, 5.40 g | N1=CC=C(C=C1)C1=CC=2N(C=C1)C=CN2 | C12H9N3
product | [2-Fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)F)=O | C24H22FN3O2
